US05616586
9-Iodo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A mixture of 9-bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (530 mg, 1.50 mmol), potassium iodide (4.98 g, 30 mmol) and cuprous iodide (2.0 g, 10.5 mmol) in hexamethylphosphoric triamide (5 mL) was heated at 160° C. for 6.5 h and poured into 1N aqueous ammonium chloride (200 mL). The mixture was extracted with a mixed solvent of THF and ethyl acetate (600 mL). The extract was washed with 1N aqueous ammonium chloride (200 mL×2) and brine (200 mL), dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 0.7 to 1% acetic acid/ethyl acetate to give 465 mg of the title compound (78%): mp 241°~243° C.; 1H NMR (270 MHz, DMSO-d6) δ12.01 (bs, 1H), 7.33 (s, 1H), 7.31 (s, 1H), 5.03~5.14 (m, 1H), 3.62 (s, 3H), 2.93 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.78 (dm, 1H, J=17.1 Hz), 2.54~2.69 (m, 2H), 2.09 (dm, 1H, J=13.5 Hz), 1.79~1.96 (m, 1H).

reactant | 9-bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1.50 mmol, 530 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)OC | C14H13BrN2O4
reactant | potassium iodide | 30 mmol, 4.98 g | [I-].[K+]
reactant | ammonium chloride | 1N, 200 mL | [Cl-].[NH4+]
solvent | hexamethylphosphoric triamide | 5 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 9-Iodo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 465 mg, 78% | IC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)OC | C14H13IN2O4
